US04479942
A solution of methyl 1-(6-benzoylamino-9H-purin-9-yl)-2-O-acetyl-3-azido-1,3-dideoxy-β-D-ribofuranuronate (1.10 g) prepared in Preparation 4 in 0.5N aqueous sodium hydroxide (25 ml) was stirred for 30 minutes. The solution was adjusted to pH 1 with 10% hydrochloric acid and extracted with ethyl acetate. After the extract was washed with brine, a solution of diazomethane in diethyl ether was dropped thereto until the yellow color was not disappeared. The solution was dried over magnesium sulfate and evaporated to dryness. The residue was triturated in diethyl ether to give methyl 1-(6-benzoylamino-9H-purin-9-yl)-3-azido-1,3-dideoxy-β-D-ribofuranuronate (433 mg).

reactant | methyl 1-(6-benzoylamino-9H-purin-9-yl)-2-O-acetyl-3-azido-1,3-dideoxy-β-D-ribofuranuronate | 1.10 g | C(C1=CC=CC=C1)(=O)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](OC(C)=O)[C@@H]([C@H](O1)C(=O)OC)N=[N+]=[N-] | C20H18N8O6
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 0.5N, 25 ml | [OH-].[Na+]
product | methyl 1-(6-benzoylamino-9H-purin-9-yl)-3-azido-1,3-dideoxy-β-D-ribofuranuronate | 433 mg | C(C1=CC=CC=C1)(=O)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@@H]([C@H](O1)C(=O)OC)N=[N+]=[N-] | C18H16N8O5
